US04916149
A suspension containing 5.3 g of 2-benzylthio-1-(4'-chloro-3'-sulfamoylbenzoyl)amino-5-methoxycarbonylbenzimidazole in 30 ml of 2N sodium hydroxide solution was stirred at 50° C. for 4 hours. Meanwhile most part of the starting substance dissolved. After filtering off the insoluble part, the filtrate was neutralized by adding 30 ml of 2N hydrochloric acid. The white precipitate was filtered by suction, washed with water and dried to yield 4.9 g (94.8%) of 2-benzylthio-1-(4'-chloro-3'-sulfamoylbenzoyl)amino-5-carboxybenzimidazole, m.p.: 190°-196° C. (with decomposition).

reactant | 2-benzylthio-1-(4'-chloro-3'-sulfamoylbenzoyl)amino-5-methoxycarbonylbenzimidazole | 5.3 g | C(C1=CC=CC=C1)SC1=NC2=C(N1NC(C1=CC(=C(C=C1)Cl)S(N)(=O)=O)=O)C=CC(=C2)C(=O)OC | C23H19ClN4O5S2
solvent | sodium hydroxide | 2N, 30 ml | [OH-].[Na+]
product | 2-benzylthio-1-(4'-chloro-3'-sulfamoylbenzoyl)amino-5-carboxybenzimidazole | 4.9 g, 94.8% | C(C1=CC=CC=C1)SC1=NC2=C(N1NC(C1=CC(=C(C=C1)Cl)S(N)(=O)=O)=O)C=CC(=C2)C(=O)O | C22H17ClN4O5S2
